US06313122B1
Preparation of N1-(4-Difluoromethoxybenzoyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethoxycarbonyl]-1,2-benzenediamine Hydrochloride
To a solution of N1-[1-(4-pyridyl)piperidin-4-yl-methoxycarbonyl]-1,2-benzenediamine (0.2 g, 0.6 mmol) and 4-difluoromethoxybenzoic acid (0.23 g, 1.2 mmol) in DMF (10 mL) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.24 g, 1.2 mmol). After stirring overnight, the solvent was removed in vacuo and the residue was partitioned between ethyl acetate (300 mL) and 1 N NaOH (150 ml). The layers were separated and the organic phase was washed with brine, dried with MgSO4, filtered and concentrated in vacuo. The residue was purified by RPHPLC method A and the fractions containing pure product were combined and lypholized to give 123 mg (38%) of the title product as a white solid.

reactant | N1-[1-(4-pyridyl)piperidin-4-yl-methoxycarbonyl]-1,2-benzenediamine | 0.6 mmol, 0.2 g | N1=CC=C(C=C1)N1CCC(CC1)COC(=O)NC=1C(=CC=CC1)N | C18H22N4O2
reactant | 4-difluoromethoxybenzoic acid | 1.2 mmol, 0.23 g | FC(OC1=CC=C(C(=O)O)C=C1)F | C8H6F2O3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.2 mmol, 0.24 g | Cl.CN(CCCN=C=NCC)C
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N1-(4-Difluoromethoxybenzoyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethoxycarbonyl]-1,2-benzenediamine Hydrochloride | 123 mg, 38% | Cl.FC(OC1=CC=C(C(=O)NC=2C(=CC=CC2)NC(=O)OC(C2=CC=NC=C2)C2CCNCC2)C=C1)F | InChI=1S/C26H26F2N4O4.ClH/c27-25(28)35-20-7-5-19(6-8-20)24(33)31-21-3-1-2-4-22(21)32-26(34)36-23(17-9-13-29-14-10-17)18-11-15-30-16-12-18;/h1-10,13-14,18,23,25,30H,11-12,15-16H2,(H,31,33)(H,32,34);1H
